US05624937
4-Chloro-7-trifluoromethylquinoline (0.043 moles, 10.0 g), 4-aminothiophenol (0.043 moles, 5.3 g) and 4-dimethylaminopyridine (0.04 moles, 4.9 g) were stirred in 250 ml ethanol for 3 days. The reaction mixture was filtered, concentrated, ethyl acetate added, washed with water and dried over sodium sulfate. The solution was concentrated and the product purified by HPLC over silica gel eluted with 25% ethyl acetate/hexane to yield 4-(4-aminophenylthio)-7-trifluoromethylquinoline 10.2 g, 74%. Mass Spec (FD) 320. Calculated for C16H11F3N2S: C, 59.99; H, 3.46; N, 8.74. Found: C, 60.08; H, 3.49; N, 8.77.

reactant | 4-Chloro-7-trifluoromethylquinoline | 0.043 moles, 10.0 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 4-aminothiophenol | 0.043 moles, 5.3 g | NC1=CC=C(C=C1)S | C6H7NS
catalyst | 4-dimethylaminopyridine | 0.04 moles, 4.9 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-(4-aminophenylthio)-7-trifluoromethylquinoline | 10.2 g, 74% | NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C16H11F3N2S
